US05086055
3-(3-Chlorophenyl)-5-[2-(4-phenyl-1-piperazinyl)ethyl]-2-oxazolidinone
Following the procedure of Example 2, the title compound is prepared from 5-(2-chloroethyl)-3-(3-chlorophenyl)-2-oxazolidinone and 1-phenylpiperazine.

reactant | 5-(2-chloroethyl)-3-(3-chlorophenyl)-2-oxazolidinone | ClCCC1CN(C(O1)=O)C1=CC(=CC=C1)Cl | C11H11Cl2NO2
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 3-(3-Chlorophenyl)-5-[2-(4-phenyl-1-piperazinyl)ethyl]-2-oxazolidinone | ClC=1C=C(C=CC1)N1C(OC(C1)CCN1CCN(CC1)C1=CC=CC=C1)=O | C21H24ClN3O2
